US07312236B2
2-Chloro-N-(6-(4-dimethylamino-cyclohex-1-enyl)-pyridin-2-yl)-benzamide hydrochloride salt, isomer 2
Using a method similar to example 24, using 2-chloro-benzoyl chloride (140 mg, 0.80 mmol) and 6-(4-dimethylamino-cyclohex-1-enyl)-pyridin-2-ylamine, isomer 2 (preparation 11, 145 mg, 0.67 mmol) provides the free amine of the title compound as a slightly yellow oil (218 mg, 91%): MS (ES): m/z=356.1 (M+H)+; 1H NMR (CDCl3): δ 8.69 (s, br, 1H), 8.22 (d, 1H), 7.67 (m, 2H), 7.45 (m, 3H), 7.15 (d, 1H), 6.64 (m, 1H), 2.69 (m, 1H), 2.45 (m, 3H), 2.36 (s, 6H), 2.13 (m, 2H), 1.56 (m, 1H). Using a salt formation method similar to that in example 1 gives the hydrochloride salt: Mono-hydrochloride salt: Anal. cal'd for C20H22ClN3O.HCl.1.2H2O: C, 57.91; H, 6.20; N, 10.13. Found: C, 58.18; H, 5.98; N, 9.74.

reactant | 2-chloro-benzoyl chloride | 0.80 mmol, 140 mg | ClC1=C(C(=O)Cl)C=CC=C1 | C7H4Cl2O
reactant | 6-(4-dimethylamino-cyclohex-1-enyl)-pyridin-2-ylamine | CN(C1CC=C(CC1)C1=CC=CC(=N1)N)C | C13H19N3
product | 2-Chloro-N-(6-(4-dimethylamino-cyclohex-1-enyl)-pyridin-2-yl)-benzamide hydrochloride salt | Cl.ClC1=C(C(=O)NC2=NC(=CC=C2)C2=CCC(CC2)N(C)C)C=CC=C1 | InChI=1S/C20H22ClN3O.ClH/c1-24(2)15-12-10-14(11-13-15)18-8-5-9-19(22-18)23-20(25)16-6-3-4-7-17(16)21;/h3-10,15H,11-13H2,1-2H3,(H,22,23,25);1H
